Transistor-level TIA private fixture
* ============================================================================
* Differential Transimpedance Amplifier (complete transistor-level)
* Flattened netlist compatible with LTspice and Ngspice 46
* Path: TIA -> IF1 -> VGA1 -> IF2 -> VGA2 -> IF3 -> BUF -> FINAL
* Support: peak detector, AGC, mode select, gain-control, bias, DC cancel
* ============================================================================

*============================================================================
* BIAS GENERATION
*============================================================================
* Primary MOS diode reference (~1.0 mA)
R_BIAS vcc n_bias 3.0k
MN_BREF n_bias n_bias 0 0 NMOS W=35u L=1u
* PMOS mirror head
MP_BREF n_pbias n_pbias vcc vcc PMOS W=80u L=1u
MN_PB n_pbias n_bias 0 0 NMOS W=40u L=1u

* Cascode base bias ~2.05 V
R_CB1 vcc n_casb 8k
R_CB2 n_casb 0 14k
C_CB n_casb 0 1p

* DC-cancel reference ~0.76 V (slightly above idle Vin)
R_VR1 vcc n_vref 100k
R_VR2 n_vref 0 27k
C_VR n_vref 0 2p

* Stiff interstage CM references
* n_cm1 ~ 2.55 V (VGA interface base bias)
R_CM1A vcc n_cm1 3.0k
R_CM1B n_cm1 0 10k
C_CM1 n_cm1 0 2p
* n_cm3 ~ 2.65 V (buffer-path base bias -> ~1.85 V emitters)
R_CM3A vcc n_cm3 2.4k
R_CM3B n_cm3 0 10k
C_CM3 n_cm3 0 2p

* AGC mid reference 1.65 V
R_ACM1 vcc n_agcm 40k
R_ACM2 n_agcm 0 40k

*============================================================================
* LOCAL TIA RAIL REGULATOR (series NPN EF pass) -> vcc_tia
*============================================================================
Q_PASS vcc n_regb vcc_tia QN 150
R_PULL vcc n_regb 1.5k
R_RFB1 vcc_tia n_rfb 14k
R_RFB2 n_rfb 0 20k
R_RREF1 vcc n_rref 11k
R_RREF2 n_rref 0 20k
Q_RE1 n_rc1 n_rfb n_ret QP 12
Q_RE2 n_rc2 n_rref n_ret QP 12
MP_REE n_ret n_pbias vcc vcc PMOS W=250u L=1u
R_LC1 0 n_rc1 1.8k
R_LC2 0 n_rc2 1.8k
Q_DRV n_regb n_rc2 0 QN 18
C_RG n_regb n_rfb 3p
C_DEC vcc_tia 0 30p
R_TIA_ASSIST vcc vcc_tia 100

*============================================================================
* INPUT TIA HALF-P (inp -> tia_p)
* Grounded-emitter CE + cascode + EF shunt feedback
*============================================================================
Q_INP n_cp inp 0 QN 26
Q_CASP n_xp n_casb n_cp QN 26
R_CP vcc_tia n_xp 140
Q_EFP vcc_tia n_xp tia_p QN 26
MN_EFP tia_p n_bias 0 0 NMOS W=60u L=1u
R_EFP tia_p 0 320
R_FP tia_p inp 205
C_FP tia_p inp 8f

* DC-overload cancellation: CMOS OTA senses TIA output sag
R_SP tia_p n_sp 80k
C_SP n_sp 0 250p
* Threshold below idle tia (~0.75V); sag below this turns cancel on
R_TR1 vcc n_tref 120k
R_TR2 n_tref 0 32k
C_TR n_tref 0 5p
* NMOS OTA: Vin+=n_tref, Vin-=n_sp (tia). tia low => out high
MN_IP n_op n_sp n_tail 0 NMOS W=80u L=2u
MN_IM n_om n_tref n_tail 0 NMOS W=80u L=2u
MN_TT n_tail n_bias 0 0 NMOS W=40u L=2u
MP_LP n_op n_op vcc vcc PMOS W=80u L=2u
MP_LM n_om n_op vcc vcc PMOS W=80u L=2u
* Second stage
MP_CG n_gp n_om vcc vcc PMOS W=120u L=1u
MN_CG n_gp n_bias 0 0 NMOS W=15u L=1u
C_CG n_gp n_om 40p
R_PG n_gp 0 150k
C_PG n_gp 0 300p
M_CANCEL_P inp n_gp n_cps 0 NMOS W=1800u L=0.5u
R_CPS n_cps 0 12

*============================================================================
* INPUT TIA HALF-N (inn -> tia_n)
*============================================================================
Q_INN n_cn inn 0 QN 26
Q_CASN n_xn n_casb n_cn QN 26
R_CN vcc_tia n_xn 140
Q_EFN vcc_tia n_xn tia_n QN 26
MN_EFN tia_n n_bias 0 0 NMOS W=60u L=1u
R_EFN tia_n 0 320
R_FN tia_n inn 205
C_FN tia_n inn 8f

R_SN tia_n n_sn 80k
C_SN n_sn 0 250p
MN_IP2 n_op2 n_sn n_tail2 0 NMOS W=80u L=2u
MN_IM2 n_om2 n_tref n_tail2 0 NMOS W=80u L=2u
MN_TT2 n_tail2 n_bias 0 0 NMOS W=40u L=2u
MP_LP2 n_op2 n_op2 vcc vcc PMOS W=80u L=2u
MP_LM2 n_om2 n_op2 vcc vcc PMOS W=80u L=2u
MP_CNG n_gn n_om2 vcc vcc PMOS W=120u L=1u
MN_CNG n_gn n_bias 0 0 NMOS W=15u L=1u
C_CNG n_gn n_om2 40p
R_NG n_gn 0 150k
C_NG n_gn 0 300p
M_CANCEL_N inn n_gn n_cns 0 NMOS W=1800u L=0.5u
R_CNS n_cns 0 12

*============================================================================
* INTERFACE 1: AC-couple + EF -> v1p/v1n
*============================================================================
C_I1P tia_p n_b1p 15p
C_I1N tia_n n_b1n 15p
R_I1BP n_cm1 n_b1p 8k
R_I1BN n_cm1 n_b1n 8k
Q_I1P vcc n_b1p v1p QN 20
Q_I1N vcc n_b1n v1n QN 20
MN_I1P v1p n_bias 0 0 NMOS W=80u L=1u
MN_I1N v1n n_bias 0 0 NMOS W=80u L=1u
R_I1EP v1p 0 380
R_I1EN v1n 0 380

*============================================================================
* MODE SELECTOR: mc=0 -> gc=mgc; else gc=agc
*============================================================================
MP_INV mc_b mc vcc vcc PMOS W=25u L=1u
MN_INV mc_b mc 0 0 NMOS W=12u L=1u
MP_MS1 gc mc mgc vcc PMOS W=80u L=0.5u
MN_MS1 gc mc_b mgc 0 NMOS W=40u L=0.5u
MP_MS2 gc mc_b agc vcc PMOS W=80u L=0.5u
MN_MS2 gc mc agc 0 NMOS W=40u L=0.5u
C_GC gc 0 0.5p

*============================================================================
* GAIN-CONTROL GENERATOR: gc -> (vc1,vc1b), (vc2,vc2b)
*============================================================================
* Control common-mode ~2.2 V (stiff)
R_VCM1 vcc n_vcm 0.68k
R_VCM2 n_vcm 0 9.1k
C_VCM n_vcm 0 1p
* Reference near 1.39 V so gc=1.40 yields small positive diffs
R_GREF1 vcc n_gref 22k
R_GREF2 n_gref 0 15.5k
C_GREF n_gref 0 0.5p

* Shallow pair -> |vc1-vc1b| ~ 8 mV at gc=1.4
* Low-gain degenerated pair, EF buffers, CM near 2.6 V
Q_G1A n_g1c gc n_g1ea QN 2
Q_G1B n_g1d n_gref n_g1eb QN 2
R_G1EA n_g1ea n_g1e 600
R_G1EB n_g1eb n_g1e 600
MN_G1 n_g1e n_bias 0 0 NMOS W=30u L=1u
R_G1C vcc n_g1c 1.2k
R_G1D vcc n_g1d 1.2k
* Resistive CM restore / light attenuate to n_vcm
R_A11 n_g1d n_r1a 1.5k
R_A12 n_g1c n_r1b 1.5k
R_A13 n_r1a n_vcm 200
R_A14 n_r1b n_vcm 200
Q_VC1 vcc n_r1a vc1 QN 3
Q_VC1B vcc n_r1b vc1b QN 3
MN_VC1 vc1 n_bias 0 0 NMOS W=18u L=1u
MN_VC1B vc1b n_bias 0 0 NMOS W=18u L=1u
R_VC1 vc1 0 2.5k
R_VC1B vc1b 0 2.5k

* Steeper pair -> |vc2-vc2b| ~ 33 mV
Q_G2A n_g2c gc n_g2ea QN 3
Q_G2B n_g2d n_gref n_g2eb QN 3
R_G2EA n_g2ea n_g2e 145
R_G2EB n_g2eb n_g2e 145
MN_G2 n_g2e n_bias 0 0 NMOS W=55u L=1u
R_G2C vcc n_g2c 2.0k
R_G2D vcc n_g2d 2.0k
R_A21 n_g2d n_r2a 1.0k
R_A22 n_g2c n_r2b 1.0k
R_A23 n_r2a n_vcm 150
R_A24 n_r2b n_vcm 150
Q_VC2 vcc n_r2a vc2 QN 3
Q_VC2B vcc n_r2b vc2b QN 3
MN_VC2 vc2 n_bias 0 0 NMOS W=18u L=1u
MN_VC2B vc2b n_bias 0 0 NMOS W=18u L=1u
R_VC2 vc2 0 2.5k
R_VC2B vc2b 0 2.5k

*============================================================================
* VGA1: degenerated pair + steering quad + EF
*============================================================================
MN_V1T n_v1t n_bias 0 0 NMOS W=210u L=1u
Q_V1IP n_v1cp v1p n_v1ep QN 18
Q_V1IN n_v1cn v1n n_v1en QN 18
R_V1EP n_v1ep n_v1t 40
R_V1EN n_v1en n_v1t 40
R_V1EM n_v1ep n_v1en 30
* Signal path cascode (vc1) and dummy dump path (vc1b)
Q_V1S1 n_v1lp vc1 n_v1cp QN 18
Q_V1S3 n_v1ln vc1 n_v1cn QN 18
Q_V1S2 n_v1dp vc1b n_v1cp QN 18
Q_V1S4 n_v1dn vc1b n_v1cn QN 18
R_V1LP vcc n_v1lp 90
R_V1LN vcc n_v1ln 90
R_V1DP vcc n_v1dp 90
R_V1DN vcc n_v1dn 90
Q_V1OP vcc n_v1lp vga1p QN 18
Q_V1ON vcc n_v1ln vga1n QN 18
MN_V1OP vga1p n_bias 0 0 NMOS W=70u L=1u
MN_V1ON vga1n n_bias 0 0 NMOS W=70u L=1u
R_V1OEP vga1p 0 450
R_V1OEN vga1n 0 450

*============================================================================
* INTERFACE 2
*============================================================================
C_I2P vga1p n_b2p 15p
C_I2N vga1n n_b2n 15p
R_I2BP n_cm1 n_b2p 8k
R_I2BN n_cm1 n_b2n 8k
Q_I2P vcc n_b2p v2p QN 20
Q_I2N vcc n_b2n v2n QN 20
MN_I2P v2p n_bias 0 0 NMOS W=80u L=1u
MN_I2N v2n n_bias 0 0 NMOS W=80u L=1u
R_I2EP v2p 0 380
R_I2EN v2n 0 380

*============================================================================
* VGA2: higher gain + emitter HF compensation
*============================================================================
MN_V2T n_v2t n_bias 0 0 NMOS W=230u L=1u
Q_V2IP n_v2cp v2p n_v2ep QN 20
Q_V2IN n_v2cn v2n n_v2en QN 20
R_V2EP n_v2ep n_v2t 28
R_V2EN n_v2en n_v2t 28
R_V2EM n_v2ep n_v2en 22
C_V2EM n_v2ep n_v2en 280f
Q_V2S1 n_v2lp vc2 n_v2cp QN 22
Q_V2S3 n_v2ln vc2 n_v2cn QN 22
Q_V2S2 n_v2dp vc2b n_v2cp QN 22
Q_V2S4 n_v2dn vc2b n_v2cn QN 22
R_V2LP vcc n_v2lp 100
R_V2LN vcc n_v2ln 100
R_V2DP vcc n_v2dp 100
R_V2DN vcc n_v2dn 100
Q_V2OP vcc n_v2lp vga2p QN 20
Q_V2ON vcc n_v2ln vga2n QN 20
MN_V2OP vga2p n_bias 0 0 NMOS W=80u L=1u
MN_V2ON vga2n n_bias 0 0 NMOS W=80u L=1u
R_V2OEP vga2p 0 400
R_V2OEN vga2n 0 400

*============================================================================
* INTERFACE 3 -> bufinp/bufinn
*============================================================================
C_I3P vga2p n_b3p 15p
C_I3N vga2n n_b3n 15p
R_I3BP n_cm3 n_b3p 6k
R_I3BN n_cm3 n_b3n 6k
Q_I3P vcc n_b3p bufinp QBUF 22
Q_I3N vcc n_b3n bufinn QBUF 22
MN_I3P bufinp n_bias 0 0 NMOS W=90u L=1u
MN_I3N bufinn n_bias 0 0 NMOS W=90u L=1u
R_I3EP bufinp 0 340
R_I3EN bufinn 0 340

*============================================================================
* OUTPUT BUFFER (degenerated pair, 100 ohm diff load, output pole)
*============================================================================
MN_BT n_bt n_bias 0 0 NMOS W=520u L=1u
Q_BIP outp bufinp n_bep QBUF 32
Q_BIN outn bufinn n_ben QBUF 32
R_BEP n_bep n_bt 36
R_BEN n_ben n_bt 36
R_BEM n_bep n_ben 28
R_BLP vcc outp 50
R_BLN vcc outn 50
R_BD outp outn 100
R_OPP outp finalp 10
R_OPN outn finaln 10
C_OPP finalp 0 60f
C_OPN finaln 0 60f
C_OPD finalp finaln 45f

*============================================================================
* EIGHT-BJT GILBERT PEAK DETECTOR (high-Z tap from final)
*============================================================================
R_TAPP finalp pkdinp 5k
R_TAPN finaln pkdinn 5k
* Input followers
Q_PFP vcc pkdinp n_pfp QN 5
Q_PFN vcc pkdinn n_pfn QN 5
MN_PFP n_pfp n_bias 0 0 NMOS W=30u L=1u
MN_PFN n_pfn n_bias 0 0 NMOS W=30u L=1u
R_PFE n_pfp 0 1.4k
R_PFE2 n_pfn 0 1.4k
* Lower degenerated pair
MN_PT n_pt n_bias 0 0 NMOS W=80u L=1u
Q_PL1 n_pc1 n_pfp n_pe1 QN 6
Q_PL2 n_pc2 n_pfn n_pe2 QN 6
R_PE1 n_pe1 n_pt 22
R_PE2 n_pe2 n_pt 22
* Switching core
Q_PG1 detn n_pfp n_pc1 QN 6
Q_PG2 detp n_pfn n_pc1 QN 6
Q_PG3 detp n_pfp n_pc2 QN 6
Q_PG4 detn n_pfn n_pc2 QN 6
R_PDP vcc detp 420
R_PDN vcc detn 420
R_PK1 detp pkd 2k
R_PK2 detn pkd 2k
C_PK pkd 0 200f

*============================================================================
* AGC PATH (filter + CMOS error amp + control amp)
*============================================================================
R_AF1 detp n_afp 12k
R_AF2 detn n_afn 12k
C_AF1 n_afp 0 6p
C_AF2 n_afn 0 6p
Q_AFP vcc n_afp n_aop QN 3
Q_AFN vcc n_afn n_aon QN 3
MN_AFP n_aop n_bias 0 0 NMOS W=25u L=1u
MN_AFN n_aon n_bias 0 0 NMOS W=25u L=1u
R_AS1 n_aop n_as 8k
R_AS2 n_aon n_as 8k
C_AS n_as 0 1p

* OA1: two-stage CMOS, closed-loop ~14 V/V
MP_A11 n_a1c1 n_as n_a1t vcc PMOS W=120u L=1u
MP_A12 n_a1c2 oa n_a1t vcc PMOS W=120u L=1u
MP_A1T n_a1t n_pbias vcc vcc PMOS W=150u L=1u
MN_A11 n_a1c1 n_a1c1 0 0 NMOS W=60u L=1u
MN_A12 n_a1c2 n_a1c1 0 0 NMOS W=60u L=1u
MP_A13 n_a1o n_a1c2 vcc vcc PMOS W=180u L=1u
MN_A13 n_a1o n_bias 0 0 NMOS W=45u L=1u
C_A1 n_a1o n_a1c2 1.5p
R_A1IN oa n_a1x 10k
R_A1FB n_a1o n_a1x 140k
R_A1S n_as n_a1x 10k

* OA2: drives agc
MP_A21 n_a2c1 n_a1o n_a2t vcc PMOS W=90u L=1u
MP_A22 n_a2c2 n_agcm n_a2t vcc PMOS W=90u L=1u
MP_A2T n_a2t n_pbias vcc vcc PMOS W=110u L=1u
MN_A21 n_a2c1 n_a2c1 0 0 NMOS W=45u L=1u
MN_A22 n_a2c2 n_a2c1 0 0 NMOS W=45u L=1u
MP_A23 n_a2d n_a2c2 vcc vcc PMOS W=140u L=1u
MN_A23 n_a2d n_bias 0 0 NMOS W=35u L=1u
C_A2 n_a2d n_a2c2 4p
R_A2O n_a2d agc 12k
R_AGCU vcc agc 85k
R_AGCD agc 0 62k
C_AGC agc 0 12p

*============================================================================
* Supply bypass
*============================================================================
C_VCC vcc 0 100p
C_VCC2 vcc 0 20p

*============================================================================
* MODEL CARDS (grading environment)
*============================================================================
.model NMOS NMOS(VTO=.55 KP=220u LAMBDA=.02)
.model PMOS PMOS(VTO=-.55 KP=100u LAMBDA=.02)
.model QN NPN(IS=1e-16 BF=200 VAF=100 IKF=50m RB=5 RC=1 RE=.2 CJE=2f CJC=1f TF=.45p TR=5p)
.model QP PNP(IS=1e-16 BF=100 VAF=60 IKF=20m RB=8 RC=1 RE=.3 CJE=3f CJC=1.5f TF=.7p TR=8p)
.model QBUF NPN(IS=1e-16 BF=200 VAF=100 IKF=100m RB=3 RC=.5 RE=.15 CJE=3f CJC=1.5f TF=.45p TR=5p)

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.35
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0
I_TB_N inn 0 DC 0
.control
op
print v(gc)
quit
.endc
.end
